US04962109
4-(Methoxymethyl)-2,3,5,6-tetrafluorobenzoic acid [5.0 g prepared by a process similar to that described in European Patent Application No. 54360] was dissolved in thionyl chloride (50 cm3) and heated to the reflux temperature with stirring for 3 hours. The excess thionyl chloride was evaporated under reduced pressure to yield 4-(methoxymethyl)-2,3,5,6-tetrafluorobenzoyl chloride (ca 5 g) as a pale yellow liquid.

reactant | 4-(Methoxymethyl)-2,3,5,6-tetrafluorobenzoic acid | COCC1=C(C(=C(C(=O)O)C(=C1F)F)F)F | C9H6F4O3
reactant | thionyl chloride | 50 cm3 | S(=O)(Cl)Cl | Cl2OS
product | 4-(methoxymethyl)-2,3,5,6-tetrafluorobenzoyl chloride | ca 5 g | COCC1=C(C(=C(C(=O)Cl)C(=C1F)F)F)F | C9H5ClF4O2
